US20010023257A1
b) tert-butyl (2-hydroxyoctahydro-4,7-methanoinden-5-yl)carbamate
4.87 g of a mixture of tert-butyl (3a,4,5,6,7,7a-hexahydro-1H-4,7-methanoinden-5-yl)carbamate and tert-butyl (3a,4,5,6,7,7a-hexahydro-3H-4,7-methanoinden-5-yl)carbamate were dissolved in 30 ml of toluene (anhydrous) and, at RT, 20 ml of a 2 M solution of borane/dimethyl sulfide complex in toluene were added using a syringe. The mixture was stirred at RT for 24 hours, a further 10 ml of a 2 M solution of borane/dimethyl sulfide complex in toluene were added using a syringe, and the mixture was stirred at RT for another 6 hours. The volatile components were then removed under reduced pressure, 200 ml of CH2Cl2 and 33 ml of a 3 N aqueous NaOH solution were added, and the mixture was slowly admixed with 7 ml of a 30% strength aqueous H2O2 solution. The mixture was stirred at RT for 10 minutes, and a further 100 ml of a 3 N aqueous NaOH solution and 20 ml of a 30% strength aqueous H2O2 solution were added. The reaction mixture was stirred at RT for another 10 minutes and then extracted three times with, in each case, 200 ml of CH2Cl2. The extracts were dried over MgSO4 and the solvent was removed under reduced pressure. Chromatography over silica gel using MTB gave 2.9 g of an amorphous solid which was still contaminated by regioisomers.

reactant | tert-butyl (3a,4,5,6,7,7a-hexahydro-1H-4,7-methanoinden-5-yl)carbamate | C1C=CC2C3C(CC(C12)C3)NC(OC(C)(C)C)=O | C15H23NO2
reactant | tert-butyl (3a,4,5,6,7,7a-hexahydro-3H-4,7-methanoinden-5-yl)carbamate | C1=CCC2C3C(CC(C12)C3)NC(OC(C)(C)C)=O | C15H23NO2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (2-hydroxyoctahydro-4,7-methanoinden-5-yl)carbamate | 2.9 g | OC1CC2C3CC(C(C2C1)C3)NC(OC(C)(C)C)=O | C15H25NO3
